US08334287B2
b) 2-chloro-4-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-pyridine
The title compound, white crystalline solid, MS: m/e=329.2, 331.1 (M+H+) was prepared in accordance with the general method of example 1b from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine (CAS: [802905-83-5]) and 2-chloro-4-fluoropyridine.

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | 2-chloro-4-fluoropyridine | ClC1=NC=CC(=C1)F | C5H3ClFN
product | 2-chloro-4-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-pyridine | ClC1=NC=CC(=C1)N1C(=NC(=C1)C#CC1=CC(=NC=C1)Cl)C | C16H10Cl2N4
